US04122179
Vincamine caproate
7.08 g (2.10-2 moles) of vincamine and 2.32 g (2.10-2 moles) of caproic acid are reacted according to the same method of the preceding example. There are obtained 8.2 g of an oily substance, insoluble in water and in the common solvents. The vincamine content is 67%.

reactant | vincamine | 2.10-2 moles, 7.08 g | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4[C@](C2)(C(=O)OC)O)CC3 | C21H26N2O3
reactant | caproic acid | 2.10-2 moles, 2.32 g | C(CCCCC)(=O)O | C6H12O2
solvent | water | O | H2O
product | Vincamine caproate | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4[C@](C2)(C(=O)OC)O)CC3.C(CCCCC)(=O)[O-] | InChI=1S/C21H26N2O3.C6H12O2/c1-3-20-10-6-11-22-12-9-15-14-7-4-5-8-16(14)23(17(15)18(20)22)21(25,13-20)19(24)26-2;1-2-3-4-5-6(7)8/h4-5,7-8,18,25H,3,6,9-13H2,1-2H3;2-5H2,1H3,(H,7,8)/p-1/t18-,20+,21+;/m1./s1
